US04140775
In the manner given in Example 1C, 1-(3,5-dibromophenyl)-4-[(4-aminophenyl)methyl]piperazine and 4-chloro-7-(trifluoromethyl)quinoline are reacted together at reflux to give 4-[[4-[[4-(3,5-dibromophenyl)-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline.

reactant | 1-(3,5-dibromophenyl)-4-[(4-aminophenyl)methyl]piperazine | BrC=1C=C(C=C(C1)Br)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H19Br2N3
reactant | 4-chloro-7-(trifluoromethyl)quinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
product | 4-[[4-[[4-(3,5-dibromophenyl)-1-piperazinyl]methyl]phenyl]amino]-7-(trifluoromethyl)quinoline | BrC=1C=C(C=C(C1)Br)N1CCN(CC1)CC1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C27H23Br2F3N4
